US07414048B2
) Acetic acid anhydride (0.03 mol) was added dropwise to a solution of (±)-N-[4-(cyanohydroxyphenylmethyl)phenyl]-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxamide (0.010 mol) in pyridine (80 ml), stirred at 0° C. The reaction mixture was stirred for 4 days at RT. The solvent was evaporated. The residue was dissolved in EtOAc and washed with water. The organic layer was separated, dried (Na2SO4), filtered, and the solvent was evaporated. The residue was purified by short open column chromatography over silica gel (eluent: CH2Cl2/CH3OH 92/8). The desired fractions were collected and the solvent was evaporated, yielding 2.7 g (61%) of (±)-[cyano-[4-[[[4,5-dihydro-3-(3-pyridinyl)-5-isoxazolyl]carbonyl]amino]phenyl]-phenylmethyl]acetate. (compound 83)

reactant | Acetic acid anhydride | 0.03 mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | (±)-N-[4-(cyanohydroxyphenylmethyl)phenyl]-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxamide | 0.010 mol | C(#N)C(C1=CC=C(C=C1)NC(=O)C1CC(=NO1)C=1C=NC=CC1)(C1=CC=CC=C1)O | C23H18N4O3
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | (±)-[cyano-[4-[[[4,5-dihydro-3-(3-pyridinyl)-5-isoxazolyl]carbonyl]amino]phenyl]-phenylmethyl]acetate | 2.7 g, 61% | C(#N)C(C1=CC=CC=C1)(C1=CC=C(C=C1)NC(=O)C1CC(=NO1)C=1C=NC=CC1)OC(C)=O | C25H20N4O4
